*************
*REVISION 2 18-MAR-2002
*REDUCED INTERACTION OF SLEW RATE WITH CHANGING SUPPLY.
*SYM=PA85
* BEGIN OPAMP MACROMODEL PA95
* PINOUT ORDER +IN -IN CL OUT +V -V COMP COMP
*                1   2  3  33  4  5   6    7
.SUBCKT PA95 1 2 3 33 4 5 6 7
J1 10 1 8 JI1
J2 11 36 9 JI2
R3 12 8 9.78E+02
R4 12 9 9.78E+02
I2 12 5 2.4E-04
C1 12 5 8.02E-14
R5 12 5 5.40E+08
C7 9 41 1.63E-12
RZ1 12 40 9.78E+01
C8 8 40 1.63E-12
RZ2 12 41 9.78E+01
R1 4 10 1.00E+03
R2 4 11 1.00E+03
C2 10 11 1.13E-11
I1 4 5 -4.60E-04
G1 6 15 11 10 9.97E-04
G2 37 15 12 15 1.26E-05
LCM 37 38 1.0E-06
RCM 15 38 1.0
ECA 2 36 37 15 1.0
R6 6 15 1.00E+05
D1 6 15 DD
D2 15 6 DD
C3 6 7 3.24E-12
G3 15 7 15 6 7.97E+00
R7 7 15 1E3
D3 7 16 DD
V1 18 16 9.20E+00
D4 17 7 DD
V2 17 19 9.20E+00
RE1 15 0 0.001
E2 18 0 4 0 1
E3 19 0 5 0 1
R8 7 42 50
C4 42 15 2.81E-11
R11 20 42 50
C5 20 15 4.55E-10
Q3 19 20 21 QOP
Q4 18 20 22 QON
Q5 4 21 29 QON
Q6 5 22 29 QOP
Q7 25 27 33 QLN
Q8 26 28 33 QLP
D5 21 25 DL
D6 26 22 DL
R9 27 3 333
R10 28 3 333
I3 18 21 1.89E-03
I4 22 19 1.89E-03
R15 29 3 1.44E+02
DC1 29 4 DO
DC2 5 29 DO
.MODEL DO D(CJO=10PF IS=2.10E-15 RS=1.43E+00)
.MODEL DD D(CJO=0.1PF IS=1E-17)
.MODEL DL D(CJO=3PF IS=1E-13)
.MODEL JI1 NJF (BETA=4.00E-02 IS=3E-16 VTO=-1 KF=7.0E-18)
.MODEL JI2 NJF (BETA=4.00E-02 IS=3E-16 VTO=-1.0005 KF=7.0E-18)
.MODEL QOP PNP (BF=1.11E+02 IS=1E-14)
.MODEL QON NPN (BF=1.11E+02 IS=1E-14)
.MODEL QLN NPN (BF=200 IS=6E-13)
.MODEL QLP PNP (BF=200 IS=6E-13)
* END OF OPAMP MACROMODEL
.ENDS
************
