***********************************************************
*
* PMEG1020EA
*
* Nexperia
*
* 2 A ultra low VF MEGA Schottky barrier rectifier
* IFmax = 2A
* VRmax = 10V
* VFmax = 460mV   @ IF = 2A
* IRmax = 3mA     @ VR = 10V
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD323
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
.SUBCKT PMEG1020EA 1 2
D1 1 2 PMEG1020EA_SUB
R1 1 2 1.2E+4
*
.MODEL PMEG1020EA_SUB D
+ IS = 0.000259
+ N = 1.014
+ RS = 0.0635
+ BV = 12
+ IBV = 0.01
+ CJO = 2.553E-10
+ VJ = 0.0331
+ M = 0.3788
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*