* THS4130
*****************************************************************************
* (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: THS4130
* Date: 10/31/2013
* Model Type: All In One
* Simulator: Pspice 
* Simulator Version: 16.2
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLOS318H-MAY 2000-REVISED MAY 2011
*
* Model Version: 2.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* Version 2.0 : Improving output swing vs. supply
*               Improving common mode input range
*
*****************************************************************************
* Notes:
*   1- This macromodel predicts well: DC, small-signal AC, noise,
*      , and transient performance under a wide range
*      of conditions.
*   2- This macromodel does not predict well: distortion
*      (harmonic, intermod, diff. gain & phase, ...),
*      temperature effects, board parasitics, differences
*      between package styles, and process changes
*
* BEGIN MODEL THS4130
* MODEL OPERATES FROM -40 TO +125 C
* SOME PARAMETERS DO NOT TRACK THOSE
* OF THE REAL PART VS TEMPERATURE
* MODEL FEATURES INCLUDE:
* OPEN LOOP GAIN, CLOSED LOOP BANDWIDTH (G>=2),
* INPUT VOLTAGE NOISE WITH 1/F,
* INPUT CURRENT NOISE WITH 1/F,
* VOCM FUNCTION, OUTPUT SWING VS CURRENT
* CMRR, PSRR, VOS, TCVOS, OUTPUT CURRENT LIMIT
* OUTPUT CURRENT IS DRAWN THROUGH SUPPLY RAILS
* OUTPUT IMPEDANCE, INPUT CAPACITANCE
* INPUT BIAS CURRENT, QUIESCENT CURRENT,
* SHUTDOWN, QUIESCENT AT SHUTDOWN,
* AND SHUTDOWN ENABLE AND DISABLE TIME DELAYS.
* END FEATURES
*
* PINOUT ORDER VIN- VOCM V+ VOUT+ VOUT- V- PD VIN+
* PINOUT ORDER  1     2   3   4     5    6  7   8
*****************************************************************************
.subckt THS4130 1 2 3 4 5 6 7 8
XI77 1 2 3 4 5 6 7 8 THS4130_HT2
.ends







.subckt THS4130_HT2 1 2 3 4 5 6 7 8
XI82 46 46A 18 17 THS4130_Block1_HT2 PARAMS: SLOPE=35e-3
XI83 38 NET509 18 17 THS4130_Block1_HT2 PARAMS: SLOPE=35e-3
XI81 72A 72 18 17 THS4130_Block1_HT2 PARAMS: SLOPE=33e-3
M52 38 62 59 63 PSW W=15e-3 L=1.5e-6
G29 3 6 48 0 11.65e-3
G26 12 17 47 0 550e-6
G12 44 24 45 24 100e-3
G23 39 42 47 0 550e-6
G35 3 6 3 6 -15e-6
G8 36 24 37 24 100e-3
G22 43 41 47 0 550e-6
G7 37 24 38 24 100e-3
G3 22 21 15 16 150e-24
G25 18 14 47 0 550e-6
G11 45 24 46 24 100e-3
M53 59 61 38 64 NSW W=15e-3 L=1.5e-6
M50 57 50 17 17 NEN W=300e-6 L=3e-6
M51 52 57 17 17 NEN W=300e-6 L=3e-6
M45 51 52 17 17 NEN W=3e-3 L=3e-6
M44 50 7 17 17 NEO W=300e-6 L=3e-6
V58 62 58 -22.5
V53 51 56 1.111e-6
V52 53 17 1
V54 47 54 70e-9
V63 79 72A 900e-3
V73 46A 94 1.35
V75 38 73 550e-3
V57 61 60 22.5
V76 46 71 550e-3
V72 93 38 0
V69 66 22 50e-6
V66 89 90 655.1e-3
V65 77 17 0
V31 49 48 0
V74 NET509 95 1.35
V70 81 91 16.15e-3
V64 18 79 1.2
V71 92 46 0
Q35 3 41 40 QON
Q40 43 44 39 QON
Q53 70 78 77 QSN
Q42 65 66 67 QIN
Q43 68 21 69 QIN
Q46 71 74 75 QIN
Q22 3 14 13 QON
Q47 73 74 76 QIN
Q29 18 36 12 QON
Q51 80 80 86 QCN
Q49 74 74 83 QCN
I24 3 6 1e-6
I39 77 78 21e-6
I47 6 3 242e-6
I45 22 0 1.48e-6
I40 79 65 2.1e-3
I46 21 0 1.48e-6
I9 0 15 100e-6
I11 0 19 100e-6
I44 0 89 1e-3
I10 0 16 100e-6
I12 0 20 100e-6
I41 79 68 2.1e-3
I13 3 6 1e-6
I42 3 85 1.05e-3
Q41 42 44 41 QOP
Q34 6 39 40 QOP
Q44 71 72 65 QIP
Q45 73 72 68 QIP
Q30 17 36 14 QOP
Q18 6 12 13 QOP
Q50 74 2 84 QCP
Q48 80 81 82 QCP
D36 89 0 DD
D40 17 95 DD
D39 17 94 DD
D10 19 0 DVN
D9 16 0 DIN
D38 93 18 DD
D37 92 18 DD
D8 15 0 DIN
D6 5 3 DD
D7 6 5 DD
D11 20 0 DVN
D23 6 4 DD
D22 4 3 DD
E55 54 0 55 17 1
E20 33 0 22 24 1
E62 24 6 3 6 500e-3
E21 42 0 6 0 1
E22 43 0 3 0 1
E13 35 34 28 0 60e-3
E9 25 0 17 24 1
E60 58 59 47 0 45
E12 34 31 29 0 -60e-3
E10 26 0 27 0 1
E61 60 38 47 0 -45
E19 32 0 21 24 1
E54 49 0 47 0 1
E5 17 0 6 0 1
E8 23 0 18 24 1
E6 18 0 3 0 1
E68 22 35 90 0 140e-6
E69 91 9 90 0 -28.5e-3
E56 9 4 5 4 500e-3
E11 31 1 30 0 310e-3
E7 8 21 19 20 163e-3
C64 53 51 2.5e-15
C110 73 88 19.5e-12
C109 87 71 19.5e-12
C23 36 24 20e-15
C18 23 28 1e-12
C19 25 29 250e-15
C31 45 24 200e-12
C32 44 24 20e-15
C65 53 57 160e-12
C106 53 52 300e-12
C20 26 30 1e-12
C22 37 24 200e-12
C63 18 50 3e-15
C111 55 0 15e-15
C62 7 0 1e-12
C3 5 9 1e-15
C4 9 4 1e-15
C8 8 10 4e-12
C9 1 11 4e-12
R330 63 24 1e12
R329 60 24 1e12
R307 51 53 1e6
R331 64 24 1e12
R199 6 3 100e6
R346 24 87 60
R328 58 24 1e12
R308 17 56 1e12
R209 24 44 10
R188 24 36 10
R180 25 29 100e3
R347 24 88 60
R208 24 45 10
R316 47 0 1e12
R332 46 59 100e-3
R354 34 35 1e9
R187 24 37 10
R183 0 29 10
R309 57 53 10e3
R317 48 0 1e12
R310 52 53 10e3
R313 0 47 1e12
R312 0 54 1e12
R353 35 22 1e9
R340 17 75 333
R314 0 47 1e12
R357 6 24 1e9
R184 0 30 10
R185 32 27 1e3
R348 71 73 700e3
R339 70 69 15
R318 48 0 1e12
R178 6 3 100e6
R315 47 0 1e12
R186 27 33 1e3
R355 31 34 1e9
R182 0 28 10
R341 17 76 333
R179 23 28 100e3
R62 0 10 100e-3
R63 0 11 100e-3
R181 26 30 100e3
R306 50 18 10e3
R351 89 0 1e9
R338 70 67 15
R349 55 51 100e6
R352 0 90 1e9
R342 82 85 200
R345 6 83 666
R343 84 85 200
R360 7 18 50e3
R51 6 2 30e3
R197 0 4 1e6
R344 6 86 666
R52 2 3 30e3
R212 40 4 5
R176 0 5 1e6
R191 13 5 5
R361 21 8 1e9
R356 1 31 1e9
R358 9 91 1e9
R359 9 4 1e9
.ends THS4130_HT2




.SUBCKT THS4130_Block1_HT2 VPLUS VMINUS VCC VEE
+ PARAMS: SLOPE = 33m

E1 VPLUS VMINUS VALUE = { IF ( V(VCC,VEE) > 11, SLOPE * V(VCC,VEE), 0 )  }

.ENDS



.SUBCKT THS4130_Rout_HT2 Vin Vout VCC VEE

Rout Vin Vout 5
RVCC VCC 0 1G
RVEE VEE 0 1G

.ENDS





.MODEL DD D
.MODEL DIN D KF=9E-16
.MODEL DVN D KF=1.5E-15
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL NEO NMOS KP=200U VTO=0.8 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL QCN NPN
.MODEL QCP PNP
.MODEL QIN NPN BF=2000 RB=12.1 KF=3E-16
.MODEL QIP PNP BF=2000 RB=12.1 KF=3E-16

.MODEL QON NPN VAF=90 RE=3 BF=150
.MODEL QOP PNP VAF=90 RE=3 BF=150

.MODEL QSN NPN




*NOISELESS RESISTOR SUB-CIRCUIT
.subckt rnoiseless a b PARAMS: R=1k
H_H1 c b VH_H1 {R}
VH_H1 a c 0
.ends
*$